US07211672B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(1-hydroxy-1-methyl-ethyl)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide was prepared from (2S, 4R)-N-[1-(4-acetyl-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-acetamide. (2S,4R)-N-[1-(4-Acetyl-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-acetamide (112 mg, 124 mmol) was dissolved in THF (5 mL) and cooled to 0° C. Methyl magnesium bromide (1.4 M in ether, 2 mL, 2.4 mmol) was added and the mixture stirred at 0° C. for 2 h. The reaction was warmed to rt and stirred an additional 2 h. The reaction was poured into saturated aqueous ammonium chloride. The phases were separated and the aqueous was extracted with ethyl acetate. The extracts were washed with brine, dried over magnesium sulfate, filtered, dried and concentrated. The crude alcohol was purified by silica gel chromatography to afford pure product (20 mg, 24%).

reactant | (2S, 4R)-N-[1-(4-acetyl-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-acetamide | C(C)(=O)C1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C27H25ClN2O3
reactant | (2S,4R)-N-[1-(4-Acetyl-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-acetamide | 124 mmol, 112 mg | C(C)(=O)C1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C27H25ClN2O3
reactant | Methyl magnesium bromide | 2.4 mmol, 1.4 M, 2 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(1-hydroxy-1-methyl-ethyl)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)C(C)(C)O)=O)C | C28H29ClN2O3
